US06864265B2
To a cold (0° C.), stirred solution of 3-methylsulfanyl-pyridine-2-carbaldehyde (prepared as described for AMD9574) (280 mg, 1.83 mmol) in a mixture of MeOH (20 mL) and water (2 mL) was added solid oxone (2.25 g, 3.66 mmol) and the resulting heterogeneous mixture was stirred for 5 h. At this point, the reaction mixture was diluted with CH2Cl2 (50 mL), and then filtered through celite, washed with CH2Cl2 (3×20 mL) and concentrated and dried in vacuo. Flash chromatography (silica gel, 4:1 hexanes-EtOAc) of the residue thus obtained afforded 70 mg (23%) of 3-methanesulfinyl-pyridine-2-carbaldehyde. 1H NMR (CDCl3) □ 2.86 (s, 3H), 7.81 (dd, 1H, J=8, 5 Hz), 8.66-8.69 (m, 1H), 8.90 (d, 1H, J=3 Hz), 10.12 (s, 1H).

reactant | 3-methylsulfanyl-pyridine-2-carbaldehyde | 1.83 mmol, 280 mg | CSC=1C(=NC=CC1)C=O | C7H7NOS
reactant | oxone | 3.66 mmol, 2.25 g | OOS(=O)[O-].[K+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-methanesulfinyl-pyridine-2-carbaldehyde | 70 mg, 23% | CS(=O)C=1C(=NC=CC1)C=O | C7H7NO2S
